US06734200B1
5(R)-[N-Isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one (Reference Example 3)
To a stirred solution of 3-(2,2,2-trichloroethyloxycarbonylamino)isoxazole (1.30 g, 5.0 mmol), 5(R)-hydroxymethyl-3-(3-fluoro-4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one (WO 97/30995; 1.91 g, 5.0. mmol) and tributylphosphine (1.52 g, 7.5 mmol) in dry tetrahydrofuran (50 ml) under a nitrogen atmosphere at 0° C., was added 1,1′-(azodicarbonyl)dipiperidine (1.89 g, 7.5 mmol) in dry tetrahydrofuran (15 ml). The solution was stirred at 0° C. for 30 minutes before being allowed to come to room temperature and it was then stirred for 2 days. The mixture was filtered, concentrated by rotary evaporation and chromatographed by MPLC (30% ethyl acetate/hexane, ICN Alumina N 32-63), and triturated with ether to give the title compound as a white amorphous solid (1.62 g, 52%). NMR: 2.41 (m, 2H), 2.60 (t, 2H), 3.15 (m, 2H), 3.90 (dd, 1H), 4.18 (m, 2H), 4.37 (dd, 1H), 5.04 (dd, 3H), 5.95 (broad s, 1H), 6.88 (s, 1H), 7.32 (m, 3H), 8.89 (s, 1H); m/z ES+ (M+H)=623.

reactant | 3-(2,2,2-trichloroethyloxycarbonylamino)isoxazole | 5.0 mmol, 1.30 g | ClC(COC(=O)NC1=NOC=C1)(Cl)Cl | C6H5Cl3N2O3
reactant | 5(R)-hydroxymethyl-3-(3-fluoro-4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl)oxazolidin-2-one | 1.91 g | OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)CC1=CC=CC=C1)F | C22H23FN2O3
reactant | tributylphosphine | 7.5 mmol, 1.52 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 7.5 mmol, 1.89 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5(R)-[N-Isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one | O1N=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)CC1=CC=CC=C1)F | C28H26Cl3FN4O5
